US04925838
To a solution of (2S,4R)-4-methanesulfonyloxy-2-(3-methyl-2-oxoimidazolidin-1-yl)carbonyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.70 g) in tetrahydrofuran (3.5 ml) was added 1.0M solution of borane-tetrahydrofuran complex in tetrahydrofuran (20.9 ml) and the mixture was stirred at ambient temperature for 1 hour and at 35°-40° C. for 2.5 hours. Methanol (20 ml) was added dropwise to the reaction mixture on ice-bath and the mixture was evaporated in vacuo. The resulting residue was dissolved in a mixture of methanol (20 ml) and 1.7M solution of hydrogen chloride in methanol (1 ml) and the mixture was allowed to stand overnight. The reaction mixture was evaporated in vacuo to give a residue. The residue was dissolved in ethyl acetate (60 ml) and the solution was washed with saturated aqueous sodium hydrogen carbonate and aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (30 g) eluting with a mixture of chloroform and methanol (9:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-methanesulfonyloxy-2-(3-methyl-2-oxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.33 g).

reactant | (2S,4R)-4-methanesulfonyloxy-2-(3-methyl-2-oxoimidazolidin-1-yl)carbonyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.70 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C(N(CC1)C)=O | C18H22N4O9S
reactant | Methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20.9 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-4-methanesulfonyloxy-2-(3-methyl-2-oxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.33 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(N(CC1)C)=O | C18H24N4O8S
